US05716777
1.3 g of 4,4-dimethylcholesta-8,14-diene-3-ol (Schroepfer et al., Chemistry and Physics of Lipids 47, p. 187 (1988)) were dissolved in 7.5 ml of pyridine and 7.5 ml of acetic anhydride and stirred at 22° C. overnight. The mixture was evaporated in vacuo, stripped twice with toluene, and purified by flash chromatography on SiO2 (toluene). The first 300 ml of eluate was evaporated, and the product crystallized from diethyl ether to yield 140 mg of 3-acetoxy-8,14-dimethylcholestadiene. Melting point: 120°-125° C. (with destruction). MS (molecular ion): 454.4.

reactant | 4,4-dimethylcholesta-8,14-diene-3-ol | 1.3 g | CC1(C2CCC=3C4=CC[C@H]([C@@H](CCCC(C)C)C)[C@]4(CCC3[C@]2(CCC1O)C)C)C | C29H48O
reactant | acetic anhydride | 7.5 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | pyridine | 7.5 ml | N1=CC=CC=C1 | C5H5N
product | 3-acetoxy-8,14-dimethylcholestadiene | 140 mg | C(C)(=O)OC1CC2CC[C@]3([C@@]4(CC[C@H]([C@@H](CC=CC(=C)C)C)[C@]4(CC[C@@H]3[C@]2(CC1)C)C)C)C | C31H50O2
